US04515948
A suspension of 33.5 g. of 2,6-dimethoxy-4-(methoxy-carbonyl)-N-methylcarbanilic acid benzyl ester in 1 liter of methanol was hydrogenated in the presence of 1.5 g. of palladium on carbon (5%) until the hydrogen uptake stopped. The suspension was heated to boiling and filtered. The filtrate was evaporated under vacuum and the residue recrystallized from cyclohexane, whereby there was obtained 3,5-dimethoxy-4-(methylamino)-benzoic acid methyl ester having a melting point of 49°-51° C.

reactant | 2,6-dimethoxy-4-(methoxy-carbonyl)-N-methylcarbanilic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C1=C(C=C(C=C1OC)C(=O)OC)OC)C)=O | C19H21NO6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1 liter | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 3,5-dimethoxy-4-(methylamino)-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)NC)OC)=O | C11H15NO4
